US08247429B2
[2-(dibenzylamino)-5,6-dihydro-7H-cyclopenta[b]pyridin-7-ylidene]acetonitrile
To a suspension of 60% sodium hydride (146 mg, 3.65 mmol) in tetrahydrofuran (20 mL) was added diethyl cyanomethylphosphonate (640 μL, 3.96 mmol), and the mixture was stirred at room temperature for 15 min. A solution of 2-(dibenzylamino)-5,6-dihydro-7H-cyclopenta[b]pyridin-7-one (1.00 g, 3.04 mmol) in tetrahydrofuran (10 mL) was added thereto, and the mixture was further stirred for 15 min. The reaction solution was diluted with saturated aqueous ammonium chloride solution, diluted with ethyl acetate, washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane=10/90→30/70) to give the title compound (1.01 g, yield 95%).

reactant | sodium hydride | 3.65 mmol, 146 mg | [H-].[Na+]
reactant | diethyl cyanomethylphosphonate | 3.96 mmol, 640 μL | C(#N)CP(OCC)(OCC)=O | C6H12NO3P
reactant | 2-(dibenzylamino)-5,6-dihydro-7H-cyclopenta[b]pyridin-7-one | 3.04 mmol, 1.00 g | C(C1=CC=CC=C1)N(C1=CC=C2C(=N1)C(CC2)=O)CC2=CC=CC=C2 | C22H20N2O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | ammonium chloride | [Cl-].[NH4+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | [2-(dibenzylamino)-5,6-dihydro-7H-cyclopenta[b]pyridin-7-ylidene]acetonitrile | 1.01 g, yield 95% | C(C1=CC=CC=C1)N(C1=CC=C2C(=N1)C(CC2)=CC#N)CC2=CC=CC=C2 | C24H21N3
